US05994368
To a suspension of lithium aluminum hydride (347 mg) in tetrahydrofuran was dropwise added a solution of ethyl 2,6-dichloro-3-(methoxymethoxy)benzoate (2.55 g) in tetrahydrofuran at 0° C. under nitrogen atmosphere, and the mixture was stirred for 30 minutes at the same temperature and for 18 hour at ambient temperature. Water was dropwise added thereto at 0° C., and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash chromatography (n-hexane:ethyl acetate=6:1, V/V) to give 2,6-dichloro-3-(methoxymethoxy)benzyl alcohol.

reactant | lithium aluminum hydride | 347 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2,6-dichloro-3-(methoxymethoxy)benzoate | 2.55 g | ClC1=C(C(=O)OCC)C(=CC=C1OCOC)Cl | C11H12Cl2O4
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,6-dichloro-3-(methoxymethoxy)benzyl alcohol | ClC1=C(CO)C(=CC=C1OCOC)Cl | C9H10Cl2O3
